US07094779B2
A mixture of 2-chloroethanal O-[2-(morpholin-4-yl)ethyl]oxime (0.13 g), (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (0.29 g), diisopropylethylamine (0.11 mL), and acetonitrile (10 mL) was heated under reflux overnight. After cooling to room temperature the solvent was removed in vacuo, and the residue treated with dichloromethane and K2CO3 (aq). The layers were separated, the organic layer was dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, CH2Cl2/MeOH/NH4OH 92/7.5/0.5) to afford 2-{(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazin-4-yl}-ethanal O-[2-(morpholin-4-yl)ethyl]oxime 0.38 g (95%) as an E/Z mixture. MH+ 626, Rf 0.53+0.66 (E+Z isomer) (CH2Cl2/MeOH/NH4OH 92/7.5/0.5).

reactant | 2-chloroethanal O-[2-(morpholin-4-yl)ethyl]oxime | 0.13 g | N1(CCOCC1)CCON=CCCl | C8H15ClN2O2
reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 0.29 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | diisopropylethylamine | 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-{(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazin-4-yl}-ethanal O-[2-(morpholin-4-yl)ethyl]oxime | 0.38 g, 95% | N1(CCOCC1)CCON=CCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C30H33F6N5O3
